US06184180B2
In a 200 ml flask equipped with a stirrer and a calcium chloride dryer tube were charged 5.7 g of 1-octadecanthiol, 1.2 g of sodium methoxide and 30 ml of methanol, and the mixture was refluxed for 10 minutes. Then, 3.0 g of methyl iodide was added dropwise to the mixture and reflux was further contented for 30 minutes. The resulting mixture was poured into 200 ml of distilled water, and the resulting precipitate was collected by filtration under reduced pressure to obtain 6.0 g of methyloctadecylsulfide.

reactant | 1-octadecanthiol | 5.7 g | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | sodium methoxide | 1.2 g | C[O-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
reactant | methyl iodide | 3.0 g | CI | CH3I
solvent | water | 200 ml | O | H2O
product | methyloctadecylsulfide | 6.0 g | CSCCCCCCCCCCCCCCCCCC | C19H40S
